US07160887B1
10% carbon-palladium (0.2 g) was added to an ethanol (20 ml) solution of tert-butyl[4-(2-nitrophenoxy)benzyl]carbamate (1.43 g, 4.15 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. An oil of tert-butyl[4-(2-aminophenoxy)benzyl]carbamate (1.13 g, 86.9%) was obtained.

reactant | tert-butyl[4-(2-nitrophenoxy)benzyl]carbamate | 4.15 mmols, 1.43 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])=O | C18H20N2O5
catalyst | carbon palladium | 0.2 g | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | tert-butyl[4-(2-aminophenoxy)benzyl]carbamate | 1.13 g, 86.9% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)OC1=C(C=CC=C1)N)=O | C18H22N2O3
